US05599986
7.2.1 Synthesis of (E)-1-chloro-2-(fluoromethylene)-4-(p-fluorophenyl)butane
Combine oxalyl chloride (2.71 g, 21.4 mmol) and toluene (20 mL). Cool to 0° C. Add N,N-dimethylformamide (1.62 g, 22.2 mmol) as a solution in toluene (2 mL). Warm to ambient temperature. After 10 minutes, cool to 0° C. Add (E)-2-(fluoromethylene)-4-(p-fluorophenyl)butan-1-ol (4.0 g, 20.2 mmol). Warm to ambient temperature. After 18 hours, pour the reaction mixture into a saturated sodium chloride solution (100 mL). Extract the aqueous layer 3 times with toluene. Dry the combined organic layers over Na2SO4, filter, and evaporate in vacuo to give the title compound. 1H NMR (CDCl3, 300 MHz) δ 2.52 (m, 2H), 2.75 (m, 2H), 3.91 (d, J=6 Hz, 2H), 6.65 (d, J=82.5 Hz, 1H), 6.95 (m, 2H), 7.15 (m, 2H).

reactant | oxalyl chloride | 21.4 mmol, 2.71 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N-dimethylformamide | 22.2 mmol, 1.62 g | CN(C=O)C | C3H7NO
reactant | (E)-2-(fluoromethylene)-4-(p-fluorophenyl)butan-1-ol | 20.2 mmol, 4.0 g | F\C=C(\CO)/CCC1=CC=C(C=C1)F | C11H12F2O
reactant | sodium chloride | 100 mL | [Cl-].[Na+]
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | (E)-1-chloro-2-(fluoromethylene)-4-(p-fluorophenyl)butane | ClC/C(/CCC1=CC=C(C=C1)F)=C/F | C11H11ClF2
